US06353017B1
A solution of methyl 3-(2-bromoethoxy)-benzoate (2.4 g, 9.26 mmol) and sodium iodide (2.78 g, 18.52 mmol) in acetone (50 mL) is refluxed for 2 hours. The resulting mixture is then filtered and concentrated. The residue is diluted with EtOAc (100 mL), washed with 5% Na2SO3 (50 mL), water (2×50 mL) and brine (50 mL), dried over MgSO4 and evaporated to yield methyl 3-(2-iodoethoxy)-benzoate, as a yellow oil, which is used directly.

reactant | methyl 3-(2-bromoethoxy)-benzoate | 9.26 mmol, 2.4 g | BrCCOC=1C=C(C(=O)OC)C=CC1 | C10H11BrO3
reactant | sodium iodide | 18.52 mmol, 2.78 g | [I-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | methyl 3-(2-iodoethoxy)-benzoate | ICCOC=1C=C(C(=O)OC)C=CC1 | C10H11IO3
